US04238352
3,5-octadiyn-1,8-diol bis(o-tolylurethane)
4,6-decadiyn-1,10-diol bis(n-butoxycarbonylmethylurethane) plus 4,6-decadiyn-1,10-diol bis(ethoxycarbonylmethylurethane)

reactant | 4,6-decadiyn-1,10-diol bis(n-butoxycarbonylmethylurethane) | C(CCC)OC(=O)CNC(=O)OCC.C(CCC)OC(=O)CNC(=O)OCC.C(CCC#CC#CCCCO)O
reactant | 4,6-decadiyn-1,10-diol bis(ethoxycarbonylmethylurethane) | C(C)OC(=O)CNC(=O)OCC.C(C)OC(=O)CNC(=O)OCC.C(CCC#CC#CCCCO)O
product | 3,5-octadiyn-1,8-diol bis(o-tolylurethane) | C1(=C(C=CC=C1)NC(=O)OCC)C.C1(=C(C=CC=C1)NC(=O)OCC)C.C(CC#CC#CCCO)O | InChI=1S/2C10H13NO2.C8H10O2/c2*1-3-13-10(12)11-9-7-5-4-6-8(9)2;9-7-5-3-1-2-4-6-8-10/h2*4-7H,3H2,1-2H3,(H,11,12);9-10H,5-8H2
